US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid [2-(4-fluoro-phenylcarbamoyl)-ethyl]-amide
4-[4-(2-Aminoethyl)anilino]-N-[3-(4-fluoroanilino)-3-oxopropyl]-1-piperidinecarboxamide formate (0.28 g, 0.6 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane according to Procedure G to give the title compound (0.11 g, 0.13 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-[3-(4-fluoroanilino)-3-oxopropyl]-1-piperidinecarboxamide formate | 0.6 mmol, 0.28 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCC(=O)NC2=CC=C(C=C2)F)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid [2-(4-fluoro-phenylcarbamoyl)-ethyl]-amide | 0.13 mmol, 0.11 g | FC1=CC=C(C=C1)NC(=O)CCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C32H40FN5O5
